US07504162B2
Under a nitrogen atmosphere, a suspension of N-benzyl-3,6-di(N-carbazolyl)carbazole (2.06 g, 3.5 mmol), benzylideneaniline (1.27 g, 7.0 mmol) and t-BuOK (5.06 g, 50 mmol) in a dried DMF (30 mL) was stirred at 75° C. for 4 hours. Water (about 150 mL) was added and black tar precipitated was filtrated. The tar-like material was dissolved in hot chloroform, to which anhydrous magnesium sulfate and activated carbon were added to be stirred for 30 minutes with heating. The mixture was filtrated, the filtrated liquid was concentrated, and then the residuum was recrystallized with chloroform/ethanol to give the compound in the title, (3,6-di(N-carbazolyl)carbazole) as beige powder. The yield was 29%. The melting point was 185 to 187° C. NMR data are shown in FIG. 17 (1H NMR) and FIG. 18 (13C NMR).

reactant | N-benzyl-3,6-di(N-carbazolyl)carbazole | 3.5 mmol, 2.06 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)N1C2=CC=CC=C2C=2C=CC=CC12)N1C2=CC=CC=C2C=2C=CC=CC12 | C43H29N3
reactant | benzylideneaniline | 7.0 mmol, 1.27 g | C(C1=CC=CC=C1)=NC1=CC=CC=C1 | C13H11N
reactant | t-BuOK | 50 mmol, 5.06 g | CC(C)(C)[O-].[K+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | Water | about 150 mL | O | H2O
product | 3,6-di(N-carbazolyl)carbazole | yield was 29% | C1=CC=CC=2C3=CC=CC=C3N(C12)C=1C=CC=2NC3=CC=C(C=C3C2C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C36H23N3
